US07253285B2
d) Preparation of 2-(4-fluoro-phenyl)-cyclopropylamine
In a round flask was added [2-(4-fluoro-phenyl)-cyclopropyl]-carbamic acid tert-butyl ester (350 mg) and 4N HCl in 1,4-dioxane (3 mL) for 2 hours. The reaction mixture was concentrated by rotavaping to obtain the crude product of 270 mg as white solid. LC-MS m/e 152 (MH+). The crude product was directly used for next step.

reactant | [2-(4-fluoro-phenyl)-cyclopropyl]-carbamic acid tert-butyl ester | 350 mg | C(C)(C)(C)OC(NC1C(C1)C1=CC=C(C=C1)F)=O | C14H18FNO2
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-(4-fluoro-phenyl)-cyclopropylamine | FC1=CC=C(C=C1)C1C(C1)N | C9H10FN
